US07196104B2
Preparation DJ: 5-tert-Butyl-oxazole-2-carboxylic acid amide
The mixture of 5-tert-butyl-oxazole-2-carboxylic acid ethyl ester(0.52 g, 2.64 mmol) and NH3 (2.0M solution in MeOH, 6.6 mL, 13.2 mmol) was stirred at RT under N2 for 20 h. The solvents were removed under reduced pressure and the residue was dissolved in EtOAc washed with brine, dried with Na2SO4 and filtered. Removal of the solvents afforded the title compound as a white solid. MS m/z: 169.2 (M+H). Calc'd for C8H12N2O2-168.19

reactant | 5-tert-butyl-oxazole-2-carboxylic acid ethyl ester | 2.64 mmol, 0.52 g | C(C)OC(=O)C=1OC(=CN1)C(C)(C)C | C10H15NO3
reactant | NH3 | 13.2 mmol, 2.0M, 6.6 mL | N | H3N
product | 5-tert-Butyl-oxazole-2-carboxylic acid amide | C(C)(C)(C)C1=CN=C(O1)C(=O)N | C8H12N2O2
